US04855085
A mixture of [2S-(4R*,8R*,)]-3,4-dihydro-2,5,7,8-tetramethyl-2-(4,8,12-trimethyl-1-tridecynyl)-6-(phenylmethoxy)-2H-1-benzopyran, (200 mg, 0.39 mmol) and 40 mg of Raney Nickel in 5 mL of ethanol and 5 mL of ethyl acetate was hydrogenated at 25° C. and atmospheric pressure for 6 h. Workup in the usual manner and purification of the crude product by chromatography on silica gel (eluent 1:5 ether-hexanes) gave 170 mg of (2R,4'R,8'R)-α-tocopherol as a pale yellow oil, identical in all respects with a known sample.

reactant | 3,4-dihydro-2,5,7,8-tetramethyl-2-(4,8,12-trimethyl-1-tridecynyl)-6-(phenylmethoxy)-2H-1-benzopyran | 0.39 mmol, 200 mg | CC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)C#CCC(CCCC(CCCC(C)C)C)C | C36H52O2
catalyst | Raney Nickel | 40 mg | [Ni] | Ni
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (2R,4'R,8'R)-α-tocopherol | 170 mg | CC1=C(C(=C2CC[C@@](OC2=C1C)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C)O | C29H50O2
